US07985769B2
Hydrolysis of the 5-tert-Butyl-3-(2,4-dimethyl-benzenesulfonylamino)-thiophene-2-carboxylic acid methyl ester (55 mg, 0.14 mmol) using LiOH.H2O (22 mg) as previously described provided the 5-tert-Butyl-3-(2,4-dimethyl-benzenesulfonylamino)-thiophene-2-carboxylic acid (36 mg, 70% yield) as a solid. 1H NMR (CD3OD, 400 MHz) 7.85 (d, J=8.6 Hz, 1H), 7.14-7.10 (m, 2H), 7.0 (s, 1H), 2.56 (s, 3H), 2.31 (s, 3H), 1.27 (s, 9H).

reactant | 5-tert-Butyl-3-(2,4-dimethyl-benzenesulfonylamino)-thiophene-2-carboxylic acid methyl ester | 0.14 mmol, 55 mg | COC(=O)C=1SC(=CC1NS(=O)(=O)C1=C(C=C(C=C1)C)C)C(C)(C)C | C18H23NO4S2
reactant | LiOH.H2O | 22 mg | O[Li].O
product | 5-tert-Butyl-3-(2,4-dimethyl-benzenesulfonylamino)-thiophene-2-carboxylic acid | 36 mg, 70% yield | C(C)(C)(C)C1=CC(=C(S1)C(=O)O)NS(=O)(=O)C1=C(C=C(C=C1)C)C | C17H21NO4S2
